US07381746B2
2.8 mL of a solution of 4N hydrogen chloride/ethyl acetate was added to 28 mg of (1R,2R,3R,5R,6R)-2-t-butoxycarbonylamino-3-(3,4-dichlorobenzylamino)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester, and the mixture was stirred for 6 hours at ice-cooling and further stirred for 18 hours at room temperature. The reaction solution was ice-cooled and then neutralized with a saturated aqueous solution of sodium hydrogen carbonate, followed by separation. The aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. The desiccant was filtered off, and the filtrate was concentrated under reduced pressure, thereby yielding 21 mg of (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzylamino)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester.

reactant | hydrogen chloride ethyl acetate | 4N | Cl.C(C)(=O)OCC
reactant | (1R,2R,3R,5R,6R)-2-t-butoxycarbonylamino-3-(3,4-dichlorobenzylamino)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 28 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1NCC1=CC(=C(C=C1)Cl)Cl)(C(=O)OCC)F)NC(=O)OC(C)(C)C | C24H31Cl2FN2O6
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzylamino)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 21 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1NCC1=CC(=C(C=C1)Cl)Cl)(C(=O)OCC)F)N | C19H23Cl2FN2O4
